US04556660
A mixture of 2.7 parts of 2-chloroacetonitrile, 19.5 parts of N-(4-piperidinyl)-1-(3-pyridinylmethyl)-1H-benzimidazol-2-amine trihydrobromide, 13 parts of sodium carbonate and 135 parts of N,N-dimethylformamide was stirred and heated for 3 hours at 50° C. The reaction mixture was poured onto water and extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from acetonitrile, yielding 6 parts (50%) of 4-[[1-(3-pyridinylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidineacetonitrile hemihydrate; mp. 204.5° C. (intermediate 73).

reactant | 2-chloroacetonitrile | ClCC#N | C2H2ClN
reactant | N-(4-piperidinyl)-1-(3-pyridinylmethyl)-1H-benzimidazol-2-amine trihydrobromide | Br.Br.Br.N1CCC(CC1)NC1=NC2=C(N1CC=1C=NC=CC1)C=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[[1-(3-pyridinylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidineacetonitrile hemihydrate | 50% | O.N1=CC(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC#N.N2=CC(=CC=C2)CN2C(=NC1=C2C=CC=C1)NC1CCN(CC1)CC#N | InChI=1S/2C20H22N6.H2O/c2*21-9-13-25-11-7-17(8-12-25)23-20-24-18-5-1-2-6-19(18)26(20)15-16-4-3-10-22-14-16;/h2*1-6,10,14,17H,7-8,11-13,15H2,(H,23,24);1H2
